US07238725B2
Step 4: N4-(3,5-dichloro-4-pyridyl)-8-chloro-9-(4Fluorobenzyl)-1-methoxy-9H-4-carbazole carboxamide
To a solution of 4-nitrophenyl-8-chloro-9-(4-Fluorobenzyl)-1-methoxy-9H-4-carbazole carboxylate (100 mg, 0.1982 mmoles) and 3,5-dichloro 4-amino pyridine (32.3 mg, 0.1982 mmoles) in dry DMF (7 mL), at 25° C. under nitrogen atmosphere, sodium hydride 55% (10.3 mg, 0.2576 mmoles) was added and stirred for 1 hr. The reaction mixtre was quenched in ice cold water (25 mL) and extracted with ethyl acetate (2×25 mL). The organic layer was washed with bicarbonate (2×25 mL), followed by 1N HCl (2×25 mL) and with brine (25 mL), dried over sodium sulphate and concentrated to give the 70 mg of the title compound.

reactant | 4-nitrophenyl-8-chloro-9-(4-Fluorobenzyl)-1-methoxy-9H-4-carbazole carboxylate | 0.1982 mmoles, 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C=2N(C3=C(C=CC=C3C2C(=C1)C(=O)[O-])Cl)CC1=CC=C(C=C1)F)OC
reactant | 3,5-dichloro 4-amino pyridine | 0.1982 mmoles, 32.3 mg | ClC=1C=NC=C(C1N)Cl | C5H4Cl2N2
reactant | sodium hydride | 0.2576 mmoles, 10.3 mg | [H-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | N4-(3,5-dichloro-4-pyridyl)-8-chloro-9-(4Fluorobenzyl)-1-methoxy-9H-4-carbazole carboxamide | 70 mg | ClC=1C=NC=C(C1NC(=O)C1=CC=C(C=2N(C3=C(C=CC=C3C12)Cl)CC1=CC=C(C=C1)F)OC)Cl | C26H17Cl3FN3O2
